US06951932B2
Step B: Preparation of 2-Amino-6-chloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine
An 8-liter, 3-neck, round bottom flask equipped with a mechanical stirrer, a condenser, a thermometer, and an argon inlet is charged with dry acetonitrile (2.2 liters) and 2′,3′,5′-tri-O-acetyl-guanosine (550 g, 1.344 moles). Tetraethylammonium chloride (423 g, 2.55 moles), previously dried for 18 hours over P2O5 at 110° C./high vacuum is added to afford a clear, green solution. After heating to 45-50° C., N,N-dimethylaniline (179 g, 1.48 moles) is added, followed by phosphorus oxychloride (825 g, 5.38 moles) over 15 minutes, during which the temperature rose to 75±3° C. The mixture was kept at 75±3° C. for 15 minutes, flash evaporated (TBath<40° C.), and the dark red residue taken up in dichloromethane (4 liters). With vigorous stirring, the mixture is washed with ice water (2.5 L), the organic phase is collected, and the aqueous phase extracted with additional dichloromethane (2×1 L). The combined organic phases are washed with cold water (2×2 liters), saturated aqueous NaHCO3 (2×2 L), dried (Na2SO4), filtered, and concentrated to approximately 1.5 liters. Absolute ethanol (1.5 L) is added and the mixture concentrated to approximately 2 liters. Upon cooling to room temperature, the product crystallizes as a colorless solid (321 g, 56%) after drying in vacuo at 40° C. for 17 hours.

reactant | 2′,3′,5′-tri-O-acetyl-guanosine | 1.344 moles, 550 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(=O)NC(N)=NC12 | C16H19N5O8
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N,N-dimethylaniline | 1.48 moles, 179 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 5.38 moles, 825 g | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | Tetraethylammonium chloride | 2.55 moles, 423 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 2.2 liters | C(C)#N | C2H3N
product | 2-Amino-6-chloro-9-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)Cl | C16H18ClN5O7
